US08980934B2
6-(4-Iodophenyl)-2-oxa-6-azaspiro[3.3]heptane
The title compound was synthesized according to General Method D, utilizing 1,4-diiodobenzene (2.5 g, 7.6 mmol), 2-oxa-6-azaspiro[3.3]heptane oxalic acid salt (1.0 g, 6.9 mmol), CuI (0.26 g, 1.4 mmol), BINOL (0.40 g, 1.4 mmol), and K3PO4 (4.4 g, 21 mmol) in DMF (15 mL). The mixture was diluted with EtOAc, filtered through Celite and the filtrate was concentrated. Purification by flash chromatography (Biotage Isolera, 100 g HP-SIL, 10-50% EtOAc in hexanes) gave the title compound as a yellow solid (0.78 g, 37%). 1H NMR (400 MHz, CDCl3) δ ppm 7.47 (d, J=8.8 Hz, 2H), 6.22 (d, J=8.8 Hz, 2H), 4.82 (s, 4H), 3.98 (s, 4H); MS ESI 301.9 [M+H]+, calcd for [C11H12INO+H]+ 302.0.

reactant | 1,4-diiodobenzene | 7.6 mmol, 2.5 g | IC1=CC=C(C=C1)I | C6H4I2
reactant | 2-oxa-6-azaspiro[3.3]heptane oxalic acid salt | 6.9 mmol, 1.0 g | C(C(=O)O)(=O)O.C1OCC12CNC2
reactant | BINOL | 1.4 mmol, 0.40 g | C=1C=CC2=C(C1)C=CC(=C2C3=C4C=CC=CC4=CC=C3O)O | C20H14O2
reactant | K3PO4 | 21 mmol, 4.4 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | CuI | 1.4 mmol, 0.26 g | [Cu]I
product | 6-(4-Iodophenyl)-2-oxa-6-azaspiro[3.3]heptane | 0.78 g, 37% | IC1=CC=C(C=C1)N1CC2(COC2)C1 | C11H12INO
